US06521630B1
Preparation of 7-Chloro-3-{3-[4-(4-chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]propyl}-8-methyl-1H-quinazoline-2,4-dione
The same general procedure was followed as in Example 7 with starting materials, 2-amino-3-methyl-4-chloro-benzoic acid, methyl ester and 3-[4-(4-Chloro-phenyl)-3,6-dihyro-2H-pyridin-1-yl]-propylamine to yield 7-Chloro-3-{3-[4-(4-chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-propyl{-8-methyl-1H-quinazoline-2,4-dione. The maleate salt of the compound has the following was found to have: Mp. 208-210° C.; 1H NMR DMSO-d6 δ 10.90 (s, 1H), 9.44 (brd s, 1H), 7.80 (d, J=8.7 Hz, 1H), 7.46 (dd, J=8.7, 20.5 Hz, 4H) 7.28 (d, J=8.5 Hz, 1H), 6.20 (brd s, 1H), 6.00 (s, 2H), 3.98 (t, J=6.4 Hz, 2H), 3.84-3.54 (m, 2H), 3.38-3.26 (m, 2H), 3.25-3.10 (m, 2H), 2.75-2.624(m, 2H), 2.39 (s, 3H), 2.10-1.99 (m, 2H); IR (KBr) 3351, 3226, 3071 2965, 2728, 2603, 1904, 1714, 1656, 1612, 1596, 1448, 1353, 1321, 1294, 1261, 1205, 1152, 1134, 1094, 1011, 989, 950, 922, 866, 836, 811, 763, 729, 706, 682, 645, 579, 523, 511, 499, 468, 441, 404; Analysis calculated for C23H23Cl2N3O2.C4H4O4: C, 57.86; H, 4.86; N, 7.50. Found: C, 57.55; H, 4.79; N, 67.36.

reactant | 2-amino-3-methyl-4-chloro-benzoic acid, methyl ester | NC1=C(C(=O)OC)C=CC(=C1C)Cl | C9H10ClNO2
reactant | 3-[4-(4-Chloro-phenyl)-3,6-dihyro-2H-pyridin-1-yl]-propylamine | ClC1=CC=C(C=C1)C=1CCN(CC1)CCCN | C14H19ClN2
reactant | 8-methyl-1H-quinazoline-2,4-dione | CC=1C=CC=C2C(NC(NC12)=O)=O | C9H8N2O2
reactant | KBr | [K+].[Br-]
product | 7-Chloro-3-{3-[4-(4-chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]propyl}-8-methyl-1H-quinazoline-2,4-dione | ClC1=CC=C2C(N(C(NC2=C1C)=O)CCCN1CCC(=CC1)C1=CC=C(C=C1)Cl)=O | C23H23Cl2N3O2
